Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I got into an argument with my family and it escalated"

 
Major Surgical or Invasive Procedure:
laceration repair 
 
History of Present Illness:
Per Dr. ___ (___) ED Initial Psychiatry 
Consult note:
. 
___ is a ___ year old male in the ___, with a 
history of depression and trauma, no prior psychiatric 
hospitalizations, and one prior near suicide attempt by hanging, 
who was brought in by ambulance after suicide attempt by cutting 
his neck over R carotid region in the setting of alcohol use.
Psychiatry was consulted for a safety assessment and disposition 
recommendations. 
. 
Patient was evaluated by trauma surgery, his neck was sutured, 
and no other interventions were indicated. ETOH level on arrival 
was 171.
. 
Mr. ___ is on leave from the Marines for the holiday break 
(schedule to return ___ and attended a 
neighborhood Christmas party this  evening.  He reports having 
approximately 6 alcoholic beverages at the party.  When he 
returned home, his brother was "pushing his buttons" and his 
parents were accusing him of being drunk.  He got into an 
argument with his father and
was hurt by things that his father was saying. He felt like "he 
(his father) was the last ___ trust in the world, and 
when he said those things, I  didn't think there was anyone 
else."
In that moment, patient felt like "I don't want to be around 
anymore" and he took a straight blade knife and cut his neck.  
Currently patient says he is happy to be alive and he is 
regretful of everything that happened tonight.  Lately, patient 
has felt like there is nowhere where he belongs-when he is at
work, he isn't unhappy there, and when he comes home to ___ 
"it feels like visiting, it doesn't feel like I'm at home."  He 
then describes his mood as "great until I came home". Currently 
he feels numb, but denies feeling hopeless, helpless, or 
worthless.  He says "I am glad to be alive" and continues to 
enjoy hanging out with his friends, going to the movies, and
working on his truck.  He denies changes in sleep, energy, 
motivation, appetite, and concentration.  He recently received 
an award at work and has been feeling good about himself.  He 
denies current suicidal ideation, intent, and plan.  He denies 
homicidal ideation.
. 
He reports a history of depression and suicidal ideation around 
___.  At that time he was working 120 hours a week in 
the military and on vehicles.  He reports a suicide attempt at 
this time by hanging but then says his friend stopped him before 
he was even close to doing anything.  He denies ever placing 
anything around his neck.  At that time he was having thoughts
that he would be better off dead.  He began seeing a therapist 
through the military and was started on Zoloft by a medical 
officer.  He only took the Zoloft for a few weeks and said it 
was not working and made him more irritable.  He saw the 
therapist through the end of ___ but has not met with her since 
then.  He denies suicidal ideation since the end of ___ until 
the incident tonight.
. 
He denies a history of decreased need for sleep, increased 
goal-directed behavior, and racing thoughts.  He denies a 
history of auditory and visual hallucinations, paranoia, thought 
insertion and thought withdrawal.  He describes himself as "a 
little anxious and nervous at times" but denies rumination or 
intrusive thoughts.  He denies a history of panic attacks.  He
endorses a history of sexual trauma with subsequent nightmares 
and flashbacks but denies these symptoms currently.  Denies a 
history of restricting, binging, and purging."
. 
In the ED, patient seen by trauma surgery. Neck laceration 
determined to be superficial, did not required further imaging. 
Laceration was sutured with 7 sutures and patient was medically 
cleared. Patient noted to be pleasant, cooperative. Initially 
refused to meet with his parents, though then agreed. He was 
given potassium 40 meq one time dose.
. 
On interview today, patient corroborates history as above. He 
states that he returned home to ___ on ___ from 
___ where he is stationed in the ___. He states 
that initially, he was getting along well with his family and 
they were excited to see him. He also states he felt like he was
"on top of the world" before returning home. However, he states 
that this excitement started to wear off and he began to feel as 
though he "doesn't belong here... I feel like a guest in my 
home." He states he feels isolated from his family, high school 
friends, and from his former life here. He reports that this has 
been an ongoing issue for him every time he has returned home
since joining the military. He notes that his friends in the 
military feel similarly and they are able to connect over this 
issue. 
. 
On day of presentation to the ED, patient reports that he got 
into an argument with his younger brother and his parents at a 
neighborhood Christmas party, where he had had 6 beers over the 
course of several hours. He left the party and went back to his 
parents home. His parents followed him back to the house and 
patient reports that they continued to engage with him and the 
argument continued to escalate. He does not elaborate regarding 
content of the argument but states that it was about "something 
small and stupid." Eventually, patient became so frustrated that 
he impulsively made decision to cut his throat. He states that 
he took knife from his room, which was a gift from ___,
opened the door and cut his throat in front of his parents in 
the hallway. He states that this was a suicide attempt. He 
states that his parents were completely shocked - his father 
held a towel to his throat while his mother called ___. 
Patient reports that he now feels guilt and regret regarding his 
suicide attempt. He especially feels guilty that his parents had 
to witness it. He states that he is glad to be alive today. 
Though he was intoxicated at the time, he does state that he 
feels he would have cut his throat regardless of intoxication. 
He currently denies suicidal ideation, intent, and plan. He 
denies
homicidal ideation. 
. 

REVIEW OF SYSTEMS
Patient denies depressed mood, states that he feels "normal." He 
denies anhedonia, change in sleep patterns, loss of energy, and 
diminished concentration. He denies symptoms of psychosis, 
including auditory and visual hallucinations. Regarding symptoms 
of mania, patient reports that he has had periods where he has 
had increased energy and drive to complete tasks on little 
sleep, though this is largely situational in context of his 
military training. He denies history of anxiety/panic attacks. 
He reports that he has had memories in the past ___ years of a 
traumatic event in his childhood, though he denies that these 
memories played a role in his current suicide attempt. He denies 
recent nightmares.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY
Diagnoses: Depression
Hospitalizations: denies
Current treaters and treatment: none currently, previously saw a
therapist in setting of suicidal ideation and near attempt in
between ___, does not recall name but
therapist was through the ___, has never seen a
psychiatrist
Medication and ECT trials: Zoloft for a couple weeks in 
___
more irritable), was prescribed by medical officer
Self-injury/SA: near suicide attempt by hanging in ___, friend stopped him before he placed anything around his
neck
Harm to others: denies
Access to weapons: no access to weapons while at home in 
___,
has access to weapons/guns in Marines

PAST MEDICAL HISTORY
PMH: Hearing loss and Tinnitus (job related)
Seizure: Denies
Head Trauma: History of concussions from football related
injuries as a teenager

 
Social History:
SUBSTANCE USE HISTORY
ETOH: had ~6 drinks night of presentation to ED (___), on
average drinks ___ times per week, ___ drinks at a time, usually
beer. Blacked out once in high school. Denies history of alcohol
withdrawal/seizure, or detox.
Marijuana: denies
Crack/Cocaine: denies
Opiates: denies
Other illicits: denies
Tobacco: uses chewing tobacco "dip" regularly, very occasional
cigarettes 

FORENSIC HISTORY
Arrests: denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole): denies

SOCIAL HISTORY:
- B/R: Born in ___, raised in ___.
- Family: Grew up with parents and younger brother. Mother
struggled with ETOH use during patient's childhood which led to
tension between parents. Patient describes himself as being "the
___" in his family since the age of ___. Says growing up
was otherwise "standard" until he was ___ and was sexually
assaulted.
- Relationship status: Single with no children.
- Primary supports: Major supports are his friends in the
___.
- Housing: Lives at ___ at ___ in
___.
- Education: He completed high school and then went to boot camp
in ___.
- Spiritual: Unknown
- Access to weapons: As above
- Military history: ___
- Trauma/Domestic Violence: history of sexual assault at age ___
with subsequent nightmares 
 
Family History:
FAMILY PSYCHIATRIC HISTORY
Paternal Aunt with depression
Mother with history of alcohol use disorder
Cousins and Aunt with history of alcohol and other substance use
(unknown which)
No known family history of suicide attempts or completed 
suicides

 
Physical Exam:
GENERAL
- HEENT: normocephalic, R neck with 4cm laceration with sutures,
clean, dry and intact 
- Cardiovascular: regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops appreciated          
- Pulmonary: no increased work of breathing, lungs clear to
auscultation bilaterally, no wheezes/rhonchi/rales
- Abdominal: non-distended
- Extremities: warm and well-perfused
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: not tested
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: normal bulk and tone bilaterally, no abnormal 
movements,
no tremor, strength ___ throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, normal stride and arm swing

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function: not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents
- Calculations: Able to subtract ___ minus 7 to 72. 
- Abstraction: 
     - "grass is always greener on the other side" - "other
situations may seem better than your own, but it's not
necessarily always true."
- Visuospatial: not assessed
- Language: fluent ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS
- Appearance: ___ year old man appearing stated age, wearing
hospital gown, in no apparent distress, with laceration with
sutures on right side of neck 
- Behavior: sitting comfortably in chair, appropriate eye
contact, no psychomotor agitation or retardation, tearful at
times when discussing suicide attempt
- Attitude: cooperative, engaged, friendly
- Mood: "normal"
- Affect: some dysthymic, reactive, tearful at times
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content:
     - Safety: Denies current SI/HI, denies suicide intent and
plan   
     - Delusions: No evidence of paranoia 
     - Obsessions/Compulsions: No evidence based on current
encounter
     - Hallucinations: Denies AVH, not appearing to be attending
to internal stimuli
- Insight/Judgment: fair / fair 

 
Pertinent Results:
___ 01:00PM   TSH-1.3
___ 01:00PM   Trep Ab-NEG
___ 12:45AM URINE  HOURS-RANDOM
___ 12:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG Fentanyl-NEG
___ 12:45AM URINE  COLOR-Colorless APPEAR-CLEAR SP 
___
___ 12:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.5 
LEUK-NEG
___ 12:37AM   ___ COMMENTS-GREEN TOP
___ 12:37AM   GLUCOSE-100 LACTATE-1.5 CREAT-0.8 NA+-146 
K+-3.4* CL--110* TCO2-25
___ 12:37AM   estGFR-Using this
___ 12:30AM   GLUCOSE-102* UREA N-8 CREAT-0.8 SODIUM-146 
POTASSIUM-3.8 CHLORIDE-111* TOTAL CO2-23 ANION GAP-12
___ 12:30AM   estGFR-Using this
___ 12:30AM   ALT(SGPT)-18 AST(SGOT)-21 ALK PHOS-71 TOT 
BILI-0.3
___ 12:30AM   LIPASE-17
___ 12:30AM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 12:30AM   WBC-6.0 RBC-4.52* HGB-13.3* HCT-40.3 MCV-89 
MCH-29.4 MCHC-33.0 RDW-12.1 RDWSD-39.6
___ 12:30AM   NEUTS-53.7 ___ MONOS-7.2 EOS-1.3 
BASOS-0.7 IM ___ AbsNeut-3.22 AbsLymp-2.18 AbsMono-0.43 
AbsEos-0.08 AbsBaso-0.04
___ 12:30AM   PLT COUNT-249
___ 12:30AM   ___ PTT-29.4 ___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. He was placed on 15 minute checks and 
green sharps on admission and remained on that level throughout 
while being unit restricted. SAFE-T risk level was initially 
high but prior to discharge was deemed to be low. 
. 
2. PSYCHIATRIC:
#) Adjustment Disorder with Depressed Mood  
___ is a ___ year old man, active service member 
___ Corps), with no significant PMH, PPHx of depression, 
sexual trauma, one previous near suicide attempt by hanging in 
___, no prior hospitalizations, who was brought in by ambulance 
after suicide attempt by cutting his neck with knife in the 
setting of alcohol use. Patient seen by trauma surgery in ED - 
sutures were placed and patient was medically cleared. Patient 
reported that primary stressors included family turmoil, 
holidays, and alcohol use. 
. 
On initial interview, Mr. ___ endorsed feeling ___ 
from family and friends at home, namely life outside ___ the 
___, which was exacerbated upon his return home for the 
holidays. He finds support from his friends in the military who 
have similar experiences, though does not feel that he can 
connect to
his former friends or family members. He states that after an 
argument with his family, he impulsively decided to attempt 
suicide by cutting his throat but expressed on initial 
evaluation remorse and guilt. He reported feeling grateful to be 
alive. On exam patient appeared calm, cooperative, with 4 cm 
laceration w/ 7 sutures placed overlying R carotid. Patient 
appeared initially dysthymic and tearful when discussing events 
leading up to hospitalization. He denied nonetheless any 
suicidal ideation, intent, or plan. Cognitive and neurologic 
exam were both unremarkable. 
. 
During the course of his hospitalization, Mr. ___ 
persistently denied any depressed mood, anhedonia, hopelessness, 
insomnia, or poor PO intake with no symptoms concerning for 
neurovegetative signs of depression. He endorsed an intact sense 
of self worth and was future oriented. Two family meetings were 
held with patient's family to discuss concerns, future 
treatment, and recommendations to increase communication within 
the family. Patient reported that by the end of his 
hospitalization, he felt more comfortable communicating with his 
family and felt surprised that his parents were vulnerable, 
sensitive, emotional, and able to empathically listen to his 
concerns. The team communicated with patient's ___ team 
including his lieutenant responsible for coordination of 
appointments; per his ___, patient will have robust 
supports in place upon return. During hospitalization, team 
additionally discussed minimizing alcohol use which appears to 
be a trigger. 
. 
Diagnostically, presentation appeared consistent with adjustment 
disorder w/ depressed mood as patient did not endorse persistent 
depressed mood/ anhedonia, neuro-vegeative symptoms, or any 
hopelessness/helplessness. Prior to discharge he denied any 
suicidal thoughts and appeared future oriented. His suicide 
attempt served the function of garnering family attention and 
was an expression of his distress, given this was a high 
lethality method of self harm but also equally high rescue given 
that the act was performed in the setting of acute intoxication 
and in front of his family. Patient does endorse some hx of 
trauma and subsequent nightmares/flashbacks, but his current 
presentation does not appear to be in the setting of post 
traumatic stress disorder. Prior to discharge, patient was 
intermittently tearful during family meeting but overall 
euthymic, with reactive affect and positive outlook regarding 
future. We had a very positive meeting with ___ and ___ 
prior to d/c where they were all able to acknowledge the need to 
communicate better.
. 
3. SUBSTANCE USE DISORDERS:
#) Substance Use Disorders
# Alcohol Use 
- Patient denies hx of acute withdrawal symptoms or complicated 
withdrawal. 
- Encouraged limiting alcohol use given increased risk of 
engaging in risky, impulsive behaviors. Recommend that patient 
follow up with psychiatrist/therapist regarding alcohol 
cessation and motivation interviewing. 
. 
4) MEDICAL: 
# Neck laceration in setting of suicide attempt
- 4cm neck lac in R carotid area, s/p 7 sutures (proline ___, 
nonabsorbable) placed by trauma surgery in ED. 
- Sutures should be removed ___ days following placement. 
Patient should follow up with ___ clinic on ___ 
___. 
. 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient only participated once in the coping skills workshop. 
. 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Multiple family meetings held with patient's family: 
- Mother, ___ - ___
- Father, ___ - ___
. 

#) ___
- Medications: None 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: as below 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
CBT, thought journaling. 
-Guardianships: None
. 
. 
RISK ASSESSMENT & PROGNOSIS
 . 
Patient has risk factors concerning for risk of self harm 
including recent suicide attempt, male gender, hx of trauma, 
alcohol use, and limited coping skills. However, patient has 
multiple protective factors and risk factors that were modified 
during the course of this hospitalization including 
establishment of outpatient providers, coordination of care, 
stronger family support, with patient expressing an intact sense 
of self worth, future oriented thought process, and patent 
appearing more help seeking in nature. As such patient's risk of 
harm to self per SAFE-T tool is now low.  
 
Medications on Admission:
N/A
 
Discharge Medications:
N/A
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder with Depressed Mood 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent
Affect is euthymic and reactive, though process is linear and 
goal directed with no reported suicidal thoughts or plan. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells ___ to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if ___ have any concerns.
-Please call ___ or go to your nearest emergency room if ___ 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with ___, and we wish ___ the 
best of health.
 
Followup Instructions:
___